US09388173B2
Step 4: 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(1-(4-methoxybenzyl)-1H-benzo[d]imidazol-6-yl)phenoxy)propan-2-ol
A mixture of 6-bromo-1-(4-methoxybenzyl)-1H-benzo[d]imidazole (200 mg, 0.63 mmol), 1-(3,4-dihydroisoquinolin-2-(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol (284 mg, 0.69 mmol), K2CO3 (261 mg, 1.89 mmol) and Pd(dppf)Cl2 (50 mg) in dioxane (8 mL) and H2O (2 mL) was stirred at 100° C. for 16 h. The catalyst was filtered and the filtrate concentrated. The residue was then purified by Prep-HPLC to give the title compound (79 mg, 24.2%). 1HNMR(CH3OD, 400 MHz) δ: 8.39 (br, 1H), 8.25 (s, 1H), 7.73-7.68 (m, 1H), 7.64-7.61 (m, 1H), 7.56-7.48 (m, 1H), 7.48-7.42 (m, 1H), 7.28-7.14 (m, 8H), 6.97-6.85 (m, 3H), 5.44 (s, 2H), 4.50-4.45 (m, 1H), 4.35 (s, 2H), 4.10-4.09 (m, 2H), 3.70 (s, 3H), 3.51-3.48 (m, 2H), 3.36-3.31 (m, 2H), 3.19-3.10 (m, 2H). LCMS (m/z): 520.2 [M+H]

reactant | 6-bromo-1-(4-methoxybenzyl)-1H-benzo[d]imidazole | 0.63 mmol, 200 mg | BrC=1C=CC2=C(N(C=N2)CC2=CC=C(C=C2)OC)C1 | C15H13BrN2O
reactant | 1-(3,4-dihydroisoquinolin-2-(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol | 0.69 mmol, 284 mg | C1N(CCC2=CC=CC=C12)CC(COC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)O | C24H32BNO4
reactant | K2CO3 | 1.89 mmol, 261 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 2 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 50 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(1-(4-methoxybenzyl)-1H-benzo[d]imidazol-6-yl)phenoxy)propan-2-ol | 79 mg, 24.2% | C1N(CCC2=CC=CC=C12)CC(COC1=CC(=CC=C1)C=1C=CC2=C(N(C=N2)CC2=CC=C(C=C2)OC)C1)O | C33H33N3O3
